US09302989B2
N-[4-(1-benzoylazetidin-3-yl)butyl]-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide
The title compound was prepared as described in Example 278, substituting benzoyl chloride for acetyl chloride and N-(4-(azetidin-3-yl)butyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide for 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (300 MHz, DMSO-d6) δ 8.55 (s, 1H), 8.46 (d, J=5.0 Hz, 1H), 7.67-7.55 (m, 2H), 7.55-7.34 (m, 4H), 6.37 (t, J=5.5 Hz, 1H), 4.60 (d, J=2.3 Hz, 4H), 4.35 (t, J=8.3 Hz, 1H), 4.11 (t, J=9.1 Hz, 1H), 3.96-3.83 (m, 1H), 3.65 (dd, J=9.7, 5.7 Hz, 1H), 3.07 (dd, J=12.8, 6.7 Hz, 2H), 2.65-2.53 (m, 1H), 1.59 (dd, J=15.2, 7.6 Hz, 2H), 1.43 (dd, J=14.4, 7.2 Hz, 2H), 1.34-1.09 (m, 2H); MS (ESI(+)) m/e 379 (M+H)+.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | N-(4-(azetidin-3-yl)butyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide | N1CC(C1)CCCCNC(=O)N1CC=2C=NC=CC2C1 | C15H22N4O
reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
product | N-[4-(1-benzoylazetidin-3-yl)butyl]-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide | C(C1=CC=CC=C1)(=O)N1CC(C1)CCCCNC(=O)N1CC=2C=NC=CC2C1 | C22H26N4O2
